US09447035B2
Step 1: Preparation of (S)-2-(2,6-dichloro-4-triisopropylsilanyloxy-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester
The title compound was prepared using a similar procedure as described in Example 1, Step 8, starting from (S)-2-amino-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester (3.95 g, 11 mmol), 2,6-dichloro-4-triisopropylsilanyloxy-benzoic acid (3.63 g, 10 mmol), HBTU (5.42 g, 14.3 mmol), and DIPEA (4.26 g, 5.75 mL, 33.0 mmol), and after ISCO column chromatography purification, resulted in an amorphous white solid (1.7 g, 24%). ES(+)-HRMS m/e calcd. for C35H47Cl2N3O6Si (M+H)+ 704.2684, obsd. 704.2683.

reactant | (S)-2-amino-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | 11 mmol, 3.95 g | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)N)=O | C19H25N3O4
reactant | 2,6-dichloro-4-triisopropylsilanyloxy-benzoic acid | 10 mmol, 3.63 g | ClC1=C(C(=O)O)C(=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)Cl | C16H24Cl2O3Si
reactant | HBTU | 14.3 mmol, 5.42 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 33.0 mmol, 5.75 mL, 4.26 g | CCN(C(C)C)C(C)C | C8H19N
product | (S)-2-(2,6-dichloro-4-triisopropylsilanyloxy-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1Cl)O[Si](C(C)C)(C(C)C)C(C)C)Cl)=O)=O | C35H47Cl2N3O6Si
